US06080895
o-Cresol 20.0 g (185 mmol) was dissolved in toluene 400 ml and thereto was added 2,6-lutidine 18.4 g (171 mmol). SnCl4 4.8 g (18 mmol) was added to the mixture and the mixture was stirred for 30 min. at 20° C. Thereto was added paraformaldehyde (purity: 95 weight %) 12.9 g (409 mmol) and the mixture was stirred at 80° C. for 5 hours to the conversion of 78%. And the reaction was kept for 10 hours at 100° C. to confirm the disappearance of the raw material, o-cresol. The reaction solution was cooled to room temperature, extracted with water-toluene in a separatory funnel and the organic layer was dried over anhydrous magnesium sulfate and dried in vacuo to give 2-hydroxy-3-methylbenzaldehyde 24.9 g (yield: 99%, selectivity: 99%).

reactant | o-Cresol | 185 mmol, 20.0 g | C1(=CC=CC=C1O)C | C7H8O
reactant | 2,6-lutidine | 171 mmol, 18.4 g | N1=C(C=CC=C1C)C | C7H9N
reactant | SnCl4 | 18 mmol, 4.8 g | Cl[Sn](Cl)(Cl)Cl
reactant | paraformaldehyde | 409 mmol, 12.9 g | C=O | CH2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-3-methylbenzaldehyde | 24.9 g, yield: 99% | OC1=C(C=O)C=CC=C1C | C8H8O2
